US04748175
2,6-Dimethyl-8-(1-ethoxycarbonyl-1-ethyl)-4-(4-morpholinyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one
Starting from 4-chloro-2,6-dimethyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one (Khim. Geterotsikl. Soed. 1972, 1285) and ethyl 2-bromopropionate, Example 32 is followed. After refluxing for 12 hours and evaporating, the residue [the most part of which is 4-chloro-2,6-dimethyl-(1-ethoxycarbonyl-1-ethyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one] is reacted with morpholine and worked up as described in Example 1, except that the evaporation residue is triturated with ether, filtered, the filtrate is evaporated and the residue is recrystallized from n-hexane to give the product in a yield of 42%, m.p.: 80°-82° C.

reactant | 4-chloro-2,6-dimethyl-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | ClC1=NC(=NC2=C1OC(C(N2)=O)C)C | C8H8ClN3O2
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | 2,6-Dimethyl-8-(1-ethoxycarbonyl-1-ethyl)-4-(4-morpholinyl)-6,7-dihydro-8H-pyrimido[5,4-b][1,4]oxazin-7-one | yield of 42% | CC=1N=C(C=2OC(C(N(C2N1)C(C)C(=O)OCC)=O)C)N1CCOCC1 | C17H24N4O5
